US08802704B2
Step 2: tert-butyl N-(3-cyanobenzyl)-N-ethyl-beta-alaninate
A mixture of 3-[(ethylamino)methyl]benzonitrile (5 g, 31 mmol) and tert-butyl acrylate (4.6 mL, 31 mmol) was heated neat at 80° C. for 12 hours. The crude mixture was purified by flash chromatography (silica, pet ether/EtOAc) to afford the title compound as colorless oil. 1H NMR (DMSO-d6, 400 MHz) δ 7.69 (m, 2H), 7.62 (d, J=7.8 Hz, 1H), 7.50 (m, 1H), 3.56 (s, 2H), 2.64 (t, 2H), 2.40 (m, 2H), 2.32 (t, 2H), 1.39 (s, 9H), 0.93 (t, 3H).

reactant | 3-[(ethylamino)methyl]benzonitrile | 31 mmol, 5 g | C(C)NCC=1C=C(C#N)C=CC1 | C10H12N2
reactant | tert-butyl acrylate | 31 mmol, 4.6 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | tert-butyl N-(3-cyanobenzyl)-N-ethyl-beta-alaninate | C(#N)C=1C=C(CN(CCC(=O)OC(C)(C)C)CC)C=CC1 | C17H24N2O2
